US08309716B2
Preparation of bis-(3R,4R)-(1-benzyl-4-methyl-piperidine-3-yl)-methylamine di-p-toluoyl-L-tartaric acid
To a clean, dry, nitrogen-purged 250 ml flask were charged racemic cis-(1-benzyl-4-methyl-piperidine-3-yl)-methylamine bis hydrochloride (20.0 g, 68.7 mmol), di-p-toluoyl-L-tartaric acid (L-DPTT) (15.9 g, 41.2 mmol) and methanol (100 ml). A solution of sodium hydroxide (5.5 g, 137.3 mmol in water (100 ml)) was added to the reaction at a rate to maintain the temperature below 30° C. The reaction was heated to between 70-80° C. and held at this temperature for at least 60 minutes. The reaction was cooled to 5-15° C. over at least 4 hours and held at this temperature for at least 12 hours. The solids were filtered and washed with a 1:1 mixture of MeOH:water (60 ml). The wet-cake was returned to the 250 ml flask and methanol (100 ml) and water (100 ml) were charged. The reaction was heated to between 70-80° C. and held at this temperature for at least 120 minutes. The reaction was cooled to 5-15° C. over at least 4 hours and held at this temperature for at least 12 hours. The solids were filtered and washed with a 1:1 mixture of MeOH:water (60 ml). The wet-cake was sampled for purity (99.4% ee) to ensure an additional repulp was not necessary. After drying under vacuum at 40-50° C. for at least 24 hours with a slight nitrogen bleed, the title compound (11.9 g, 28.9 mmol) was isolated in 42.1% yield (98.6% enantiomeric excess, 0.63% trans isomer by GC (Cyclosil B column 30 m×I.D. 0.25 mm; Inlet Temp 250; 2.0 ml/min flow rate; 15 min run; 160 C isothermal method.

reactant | racemic cis-(1-benzyl-4-methyl-piperidine-3-yl)-methylamine bis hydrochloride | 68.7 mmol, 20.0 g | Cl.Cl.C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C)NC
reactant | di-p-toluoyl-L-tartaric acid | 41.2 mmol, 15.9 g | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
reactant | sodium hydroxide | 137.3 mmol, 100 ml, 5.5 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (3R,4R)-(1-benzyl-4-methyl-piperidine-3-yl)-methylamine di-p-toluoyl-L-tartaric acid | 28.9 mmol, 11.9 g, 42.1% yield | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC | InChI=1S/C20H18O8.C14H22N2/c1-11-3-7-13(8-4-11)15(21)19(27,17(23)24)20(28,18(25)26)16(22)14-9-5-12(2)6-10-14;1-12-8-9-16(11-14(12)15-2)10-13-6-4-3-5-7-13/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);3-7,12,14-15H,8-11H2,1-2H3/t19-,20-;12-,14+/m01/s1
